US06175047B1
(1) Synthesis of 4-pentenyl 10-undecenoate
A flask was charged with 10 g (116 mmol) of 4-pentenol, 200 ml of methylene chloride, 18.33 g (232 mmol) of pyridine and the mixture was ice-cooled. To the mixture was added dropwise 80 ml of a methylene chloride solution containing 23.51 g (116 mmol) of 10-undecenoyl chloride. The resulting mixture was stirred for 30 minutes and then at room temperature for 3 hours. The insoluble substance was filtered. 5% hydrochloric acid was added to the filtrate to separate an organic layer. The organic layer was washed with an aqueous saturated sodium bicarbonate solution and water in this order, followed by drying using magnesium sulfate anhydride. After the drying, a solvent was distilled and the residue was subjected to vacuum distillation (121-123° C./2 mmHg) to obtain 25.3 g of an object material in a yield of 86.4%.

reactant | 4-pentenol | 116 mmol, 10 g | C(CCC=C)O | C5H10O
reactant | pyridine | 232 mmol, 18.33 g | N1=CC=CC=C1 | C5H5N
reactant | 10-undecenoyl chloride | 116 mmol, 23.51 g | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-pentenyl 10-undecenoate | 25.3 g, yield of 86.4% | C(CCCCCCCCC=C)(=O)OCCCC=C | C16H28O2
